US08871756B2
N-[(3-Aminooxetan-3-yl)methyl]-6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine
A mixture of N-(3-aminooxetan-3-ylmethyl)-2-chloro-6-methylquinazolin-4-amine (140 mg, 0.5 mmol) and 2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide (270 mg, 1.5 mmol) in n-butanol (10 mL) was heated at 160° C. for 30 minutes. After the resulting mixture was concentrated in vacuo, the residue was purified by preparative HPLC to afford the pure product as a solid. MS obsd. (ESI+) [(M+H)+] 424, 1H NMR (400 MHz, CD3OD) δ ppm 8.01 (s, 1 H), 7.83-7.79 (m, 2 H), 7.66-7.52 (m, 4 H), 5.45-5.41 (d, 1 H), 5.10 (brs, 1 H), 4.80-4.72 (m, 6 H), 4.39 (s, 2 H), 3.51 (s, 2 H), 2.45 (s, 3 H).

reactant | N-(3-aminooxetan-3-ylmethyl)-2-chloro-6-methylquinazolin-4-amine | 0.5 mmol, 140 mg | NC1(COC1)CNC1=NC(=NC2=CC=C(C=C12)C)Cl | C13H15ClN4O
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide | 1.5 mmol, 270 mg | S1(CCNCC2=C1C=CC=C2)=O | C9H11NOS
solvent | n-butanol | 10 mL | C(CCC)O | C4H10O
product | N-[(3-Aminooxetan-3-yl)methyl]-6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine | NC1(COC1)CNC1=NC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)=O | C22H25N5O2S
